2191-03-26 09:34:00 Physician Attending Progress Note
Chief Complaint: altered mental status.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   39 yom admitted [**3-18**] with beriberi. Repleted with thiamine, course c/b
   etoh withdrawal and refeeding syndrome. Improved on floor until fever
   spike [**3-24**]. CT without clear chest infiltrate. LP neg for infection but
   +360RBC. Treated with abx for HAP. CTA neg for PE. Continued
   deterioration in mental status, Neuro concerned for intermittent
   seizures. Started on Keppra, acyclovir for possible HSV encephalitis,
   and sent to ICU for continuous EEG.
   24 Hour Events:
   Loaded with Keppra. Continued on Vanc, Zosyn, Acyclovir.
   Worsening mental status, with resp acidosis, so intubated after arrival
   to ICU.
   Persistent sinus tach (no change).
   Head CT with 4mm subdural hematoma, new from [**3-21**].
   Given FFP for coagulopathy.
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2191-3-26**] 12:36 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-3-26**] 03:55 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2191-3-26**] 12:00 AM
   Other medications:
   Keppra, Vit B complex, ISS, SQH, Vancomycin, Protonix, mvi, thiamine,
   folate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Respiratory: intubated
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Neurologic: Seizure
   Flowsheet Data as of  [**2191-3-26**] 09:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.2
C (99
   HR: 91 (91 - 117) bpm
   BP: 133/71(85) {120/59(76) - 141/101(107)} mmHg
   RR: 15 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                    477 mL
                                                                    798 mL
   PO:
           TF:
                                                                     65 mL
                                                                    128 mL
   IVF:
                                                                    312 mL
                                                                    410 mL
   Blood products:
   260 mL
   Total out:
                                                                    400 mL
                                                                  1,330 mL
   Urine:
                                                                    400 mL
                                                                  1,330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                   -532 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 703 (703 - 779) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 14 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/37/186/25/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 372
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   139 K/uL
   124 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   15 mg/dL
   109 mEq/L
   141 mEq/L
   27.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2191-3-20**]  10:51 AM
                             [**2191-3-20**]  05:01 PM
                             [**2191-3-20**]  10:17 PM
                             [**2191-3-21**]  03:26 AM
                             [**2191-3-21**]  03:29 PM
                             [**2191-3-22**]  04:45 AM
                             [**2191-3-26**]  12:15 AM
                             [**2191-3-26**]  01:56 AM
                             [**2191-3-26**]  04:01 AM
                             [**2191-3-26**]  04:02 AM
   WBC
   5.5
   5.1
   6.2
   6.4
   9.4
   Hct
   24.2
   22.1
   27.1
   26.3
   26.1
   25.7
   27.3
   Plt
   144
   137
   142
   135
   139
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   25
   27
   27
   Glucose
   103
   95
   107
   92
   124
   Other labs: PT / PTT / INR:18.8/41.8/1.7, CK / CKMB / Troponin-T:126//,
   ALT / AST:55/162, Alk Phos / T Bili:117/5.9, Amylase / Lipase:191/660,
   Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:5.8 %, Eos:1.8 %,
   D-dimer:5623 ng/mL, Fibrinogen:194 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:263 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Imaging: Head CT- 4mm subdural
   MRI [**3-21**]- nonsp periventric white matter changes.
   Microbiology: urine [**3-23**]- staph
   Assessment and Plan
   39 yom with alcoholism admitted with beriberi weakness, readmitted to
   ICU for altered mental status.
   1)Neuro- DDx - seizures, tox/metabolic- infection, etoh or benzo
   withdrawal.
   Pancultured, on abx for bacterial infection and acyclovir for possible
   HSV encephalitis given RBC in CSF, and now being treated with Keppra.
   CIWA scale. EEG monitoring starting now.
   Subdural hematoma- will try to keep INR<2.0.
   2)ID- low grade fevers, workup and treatment as above. Staph in urine
   covered. consider tapping effusion if no improvement but likely low
   yield.
   3)Pulm- try to extubate today if mental status improved.
   4)FEN- beriberi, continue repletion. Continue Lasix for generalized
   edema. on TFs
   5)Heme- coagulopathy, likely nutritional/hepatic dysfunction.
   6)GI- LFT abnormalities,stable. viral hep panel negative. persistently
   elevated lipase, consider ab CT if recurrent fevers.
   7)ICU- SQH, PPI, Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-25**] 11:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2191-03-26 12:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS
   24 Hour Events:
 INVASIVE VENTILATION - START [**2191-3-26**] 02:12 AM
   [**2191-3-25**]:
   - transferred from floor for worsening AMS, fevers, tachycardia,
   concern for fevers
   - keppra loaded and dosed
   - CT showed small (4mm) subdural hemorrhage
   - Intubated for airway protection and hypercarbic resp failure
   - Cipro discontinued, vanc/zosyn continued
   - for continuous EEG in AM
   History obtained from Interpreter
   Allergies:
   History obtained from InterpreterNo Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-3-26**] 10:00 AM
   Vancomycin - [**2191-3-26**] 11:00 AM
   Acyclovir - [**2191-3-26**] 12:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2191-3-26**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2191-3-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-3-26**] 12:32 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 94 (89 - 117) bpm
   BP: 123/77(87) {114/59(76) - 141/101(107)} mmHg
   RR: 15 (15 - 34) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
           Total In:
                                                                    477 mL
                                                                  1,478 mL
   PO:
           TF:
                                                                     65 mL
                                                                    217 mL
   IVF:
                                                                    312 mL
                                                                    882 mL
   Blood products:
   260 mL
   Total out:
                                                                    400 mL
                                                                  1,570 mL
   Urine:
                                                                    400 mL
                                                                  1,570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     77 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 703 (703 - 779) mL
   RR (Set): 14
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 35
   PIP: 14 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 100%
   ABG: 7.45/37/186/25/2
   Ve: 8.9 L/min
   PaO2 / FiO2: 372
   Physical Examination
   gen: opens eyes to voice, does not respond with voice
   heent: ncat
   pulm: LLL rhonchi, o/w ctab
   cv: tachy, no m/r/g
   abd: s/nt/nd/nabs
   extr: diffuse 2+ LE and UE edema
   neuro: not oriented, moves all extremities
   Labs / Radiology
   139 K/uL
   9.1 g/dL
   124 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.4 mEq/L
   15 mg/dL
   109 mEq/L
   141 mEq/L
   27.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2191-3-20**]  10:51 AM
                             [**2191-3-20**]  05:01 PM
                             [**2191-3-20**]  10:17 PM
                             [**2191-3-21**]  03:26 AM
                             [**2191-3-21**]  03:29 PM
                             [**2191-3-22**]  04:45 AM
                             [**2191-3-26**]  12:15 AM
                             [**2191-3-26**]  01:56 AM
                             [**2191-3-26**]  04:01 AM
                             [**2191-3-26**]  04:02 AM
   WBC
   5.5
   5.1
   6.2
   6.4
   9.4
   Hct
   24.2
   22.1
   27.1
   26.3
   26.1
   25.7
   27.3
   Plt
   144
   137
   142
   135
   139
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   25
   27
   27
   Glucose
   103
   95
   107
   92
   124
   Other labs: PT / PTT / INR:18.8/41.8/1.7, CK / CKMB / Troponin-T:126//,
   ALT / AST:55/162, Alk Phos / T Bili:117/5.9, Amylase / Lipase:191/660,
   Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:5.8 %, Eos:1.8 %,
   D-dimer:5623 ng/mL, Fibrinogen:194 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:263 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
   39 yo male with 25 years of heavy alcohol abuse, presents with several
   months of progressive distal to proximal weakness, now thought to be
   due to wet beri beri, sent to the ICU with worsening MS, fevers, and
   concern for seizure.
   .
   ## AMS: This is worsened in past 2 days. Etiology broad and could
   include infectious, bleed/stroke, metabolic, withdrawal (less likely
   given in hospital for 7 days, though had 65mg diazepam on 13th and 14th
   as well as 10mg diazepam on 15th, 2mg ativan on 15th, and 1mg ativan on
   the 16th, none since). Pt has involuntary shaking and documented eye
   deviation to the left.   These are better today after keppra started.
   LP done [**3-24**] showing no signs of infection at this point, but multiple
   RBCs.  While the tap was traumatic, this is concerning for HSV in
   addition to subarachnoid hemorrhage.  CT on [**3-25**] shows 4mm subdural new
   from [**3-21**].  He also has a UCx from [**3-23**] growing staph, already on
   vanc.  Aspiration pna was also a concern despite CT chest showing no
   consolidation (does show bilateral pleural effusions).  He was started
   on vanc/zosyn/cipro.  Less likely but possible is hepatic
   encephalopathy.
   - acyclovir empirically for HSV encephalitis
   - cont infectious workup - f/u cultures, consider tapping pleural
   effusions.
   - continue broad spectrum antibiotics
   - continuous EEG per neuro
   - s/p keppra load, continuing [**Hospital1 7**] keppra dosing
   - conservative CIWA
   - check CK given possible persistent seizures, ? rhabdo (Cr stable)
   - lactulose 30 TID
   .
   # Fever/tachycardia: Together these symptoms are concerning for PE
   especially with episode of hypoxia, however CTA was negative for PE.
   Other concerns include SIRS from infection.  LP NTD from [**3-24**], though
   blood concerning for HSV.  Only cultured source thus far is
   staphylococcus in urine, though other potential sources could be HCV
   encephalitis, pleural effusions.  Withdrawal could also contribute to
   tachycardia, though he is 1 week out from admission (though had 65mg
   diazepam on 13th and 14th as well as 10mg diazepam on 15th, 2mg ativan
   on 15th, and 1mg ativan on the 16th, none since).  Unlikely NMS given
   only had .5 of haldol and 10mg of olanzapine during entire stay.
   - cont antibiotics as above
   - f/u cultures
   - consider tapping pleural effusions
   - CIWA
   - consider CT abd for GI source if no improvement
   .
   ## Respiratory acidosis: likely [**3-7**] sedation from keppra given nl pH
   earlier today.  s/p intubation.
   - wean as tolerated.
   .
   ## subdural hemorrhage: small, 4mm with no midline shift, though could
   contribute to focus for seizure.  Also with coagulopathy, concern is
   for ongoing bleeding.  This is new since the 16th given not evident on
   MRI from [**3-21**].  vit k 10mg IV and FFP given with improvement in INR.
   - repeat CT if changes in mental status, o/w, f/u for resolution in [**4-6**]
   weeks.
   .
   ## pleural effusions: likely compressive atelectasis vs parapneumonic
   effusions, most likely compressive atelectasis with effusions represent
   total body edema.  Still could be infected and source of fevers.
   - consider thoracentesis
   .
   ## Beriberi: Weakness intially improved with thiamine repletion. He has
   components of both wet and dry Beriberi - heart failure, edema and
   weakness.
   - Continue Thiamine, B complex, Multivitamin, folate
   .
   ## Volume status: Peripheral edema, likely due to capillary leak
   syndrome secondary to Beriberi. Also many liters positive over
   admission for tachycardia.  Known pleural effusions.
   - lasix
   - goal negative
   .
   ## GI bleed: Marroon stools during his stay, hematocrit stable.
   - Guaiac, and monitor Hct.
   .
   ## Coagulopathy:? hepatic contribution, possible component of DIC
   (fibrinogen not low on [**3-21**])  Improvement after FFP and vit k
   - Monitor HCT and transfuse prn Hct <21 (has now gotten 5U RBCs and 2U
   FFP, none since [**2191-3-20**])
   - fibrinogen not suspicious for DIC, ddimer elevated nonspecific
   .
   ## LFT abnormalities: Leading diagnosis is alcoholic hepatitis.  Never
   given steroids.  Stable, not improving.
   - Liver recs (appreciate input)
   - HBV, HIV, HSV, EBV, CMV neg
   - abd u/s to assess for ascites
   - Lactulose as above
   .
   ## Elevated lipase: Trending down after peak 808. Likely etoh related
   subclinical pancreatitis.
   - follow
   - consider CT abd to eval for inflammation/pseudocyst
   .
   ## FEN/Lytes: Tube feeds, replete lytes prn
   .
   ## Prophylaxis: sc heparin, ppi
   .
   ## Access: PIVs
   .
   ## Code status: FULL CODE
   .
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2191-3-25**] 10:49 PM 55 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2191-3-25**] 11:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2191-03-27 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -recd 20 IV lasix x 1
   - Neuro said EEG leads were compatible, but unclear whether the box
   they are in is compatible, thus patient went for MRI, but didn't get
   it.
   - RUQ without cirrhosis, positive for gallbladder sludge
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2191-3-26**] 08:09 PM
   Piperacillin/Tazobactam (Zosyn) - [**2191-3-27**] 04:00 AM
   Acyclovir - [**2191-3-27**] 04:53 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-3-26**] 08:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-3-27**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 94 (89 - 106) bpm
   BP: 118/76(86) {111/62(75) - 142/88(93)} mmHg
   RR: 20 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  2,979 mL
                                                                    515 mL
   PO:
             TF:
                                                                    676 mL
                                                                    108 mL
   IVF:
                                                                  1,612 mL
                                                                    347 mL
   Blood products:
                                                                    260 mL
   Total out:
                                                                  1,985 mL
                                                                    235 mL
   Urine:
                                                                  1,985 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    994 mL
                                                                    280 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 342 (342 - 342) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 66
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: ///25/
   Ve: 8.7 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   174 K/uL
   8.0 g/dL
   118 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.2 mEq/L
   13 mg/dL
   112 mEq/L
   141 mEq/L
   23.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2191-3-20**]  05:01 PM
                             [**2191-3-20**]  10:17 PM
                             [**2191-3-21**]  03:26 AM
                             [**2191-3-21**]  03:29 PM
                             [**2191-3-22**]  04:45 AM
                             [**2191-3-26**]  12:15 AM
                             [**2191-3-26**]  01:56 AM
                             [**2191-3-26**]  04:01 AM
                             [**2191-3-26**]  04:02 AM
                             [**2191-3-27**]  04:15 AM
   WBC
   5.1
   6.2
   6.4
   9.4
   9.2
   Hct
   22.1
   27.1
   26.3
   26.1
   25.7
   27.3
   23.7
   Plt
   137
   142
   135
   139
   174
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   TCO2
   25
   27
   27
   Glucose
   95
   107
   92
   124
   118
   Other labs: PT / PTT / INR:18.3/47.4/1.7, CK / CKMB / Troponin-T:168//,
   ALT / AST:55/162, Alk Phos / T Bili:117/5.9, Amylase / Lipase:191/660,
   Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:5.8 %, Eos:1.8 %,
   D-dimer:5623 ng/mL, Fibrinogen:194 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:263 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   39 yo male with 25 years of heavy alcohol abuse, presents with several
   months of progressive distal to proximal weakness, now thought to be
   due to wet beri beri, sent to the ICU with worsening MS, fevers, and
   concern for seizure.
   .
   ## AMS: This is worsened in past 2 days. Etiology broad and could
   include infectious, bleed/stroke, metabolic, withdrawal (less likely
   given in hospital for 7 days, though had 65mg diazepam on 13th and 14th
   as well as 10mg diazepam on 15th, 2mg ativan on 15th, and 1mg ativan on
   the 16th, none since). Pt has involuntary shaking and documented eye
   deviation to the left.   These are better today after keppra started.
   LP done [**3-24**] showing no signs of infection at this point, but multiple
   RBCs.  While the tap was traumatic, this is concerning for HSV in
   addition to subarachnoid hemorrhage.  CT on [**3-25**] shows 4mm subdural new
   from [**3-21**].  He also has a UCx from [**3-23**] growing staph, already on
   vanc.  Aspiration pna was also a concern despite CT chest showing no
   consolidation (does show bilateral pleural effusions).  He was started
   on vanc/zosyn/cipro.  Less likely but possible is hepatic
   encephalopathy.
   - acyclovir empirically for HSV encephalitis
   - cont infectious workup - f/u cultures, consider tapping pleural
   effusions.
   - continue broad spectrum antibiotics
   - continuous EEG per neuro
   - s/p keppra load, continuing [**Hospital1 7**] keppra dosing
   - conservative CIWA
   - check CK given possible persistent seizures, ? rhabdo (Cr stable)
   - lactulose 30 TID
   .
   # Fever/tachycardia: Together these symptoms are concerning for PE
   especially with episode of hypoxia, however CTA was negative for PE.
   Other concerns include SIRS from infection.  LP NTD from [**3-24**], though
   blood concerning for HSV.  Only cultured source thus far is
   staphylococcus in urine, though other potential sources could be HCV
   encephalitis, pleural effusions.  Withdrawal could also contribute to
   tachycardia, though he is 1 week out from admission (though had 65mg
   diazepam on 13th and 14th as well as 10mg diazepam on 15th, 2mg ativan
   on 15th, and 1mg ativan on the 16th, none since).  Unlikely NMS given
   only had .5 of haldol and 10mg of olanzapine during entire stay.
   - cont antibiotics as above
   - f/u cultures
   - consider tapping pleural effusions
   - CIWA
   - consider CT abd for GI source if no improvement
   .
   ## Respiratory acidosis: likely [**3-7**] sedation from keppra given nl pH
   earlier today.  s/p intubation.
   - wean as tolerated.
   .
   ## subdural hemorrhage: small, 4mm with no midline shift, though could
   contribute to focus for seizure.  Also with coagulopathy, concern is
   for ongoing bleeding.  This is new since the 16th given not evident on
   MRI from [**3-21**].  vit k 10mg IV and FFP given with improvement in INR.
   - repeat CT if changes in mental status, o/w, f/u for resolution in [**4-6**]
   weeks.
   .
   ## pleural effusions: likely compressive atelectasis vs parapneumonic
   effusions, most likely compressive atelectasis with effusions represent
   total body edema.  Still could be infected and source of fevers.
   - consider thoracentesis
   .
   ## Beriberi: Weakness intially improved with thiamine repletion. He has
   components of both wet and dry Beriberi - heart failure, edema and
   weakness.
   - Continue Thiamine, B complex, Multivitamin, folate
   .
   ## Volume status: Peripheral edema, likely due to capillary leak
   syndrome secondary to Beriberi. Also many liters positive over
   admission for tachycardia.  Known pleural effusions.
   - lasix
   - goal negative
   .
   ## GI bleed: Marroon stools during his stay, hematocrit stable.
   - Guaiac, and monitor Hct.
   .
   ## Coagulopathy:? hepatic contribution, possible component of DIC
   (fibrinogen not low on [**3-21**])  Improvement after FFP and vit k
   - Monitor HCT and transfuse prn Hct <21 (has now gotten 5U RBCs and 2U
   FFP, none since [**2191-3-20**])
   - fibrinogen not suspicious for DIC, ddimer elevated nonspecific
   .
   ## LFT abnormalities: Leading diagnosis is alcoholic hepatitis.  Never
   given steroids.  Stable, not improving.
   - Liver recs (appreciate input)
   - HBV, HIV, HSV, EBV, CMV neg
   - abd u/s to assess for ascites
   - Lactulose as above
   .
   ## Elevated lipase: Trending down after peak 808. Likely etoh related
   subclinical pancreatitis.
   - follow
   - consider CT abd to eval for inflammation/pseudocyst
   .
   ## FEN/Lytes: Tube feeds, replete lytes prn
   .
   ## Prophylaxis: sc heparin, ppi
   .
   ## Access: PIVs
   .
   ## Code status: FULL CODE
   .
   ## Dispo: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-26**] 08:51 PM
   20 Gauge - [**2191-3-26**] 08:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-03-27 09:53:00 Physician Attending Progress Note
Chief Complaint: altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Received Lasix
   More awake this morning.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2191-3-27**] 04:00 AM
   Acyclovir - [**2191-3-27**] 04:53 AM
   Vancomycin - [**2191-3-27**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2191-3-27**] 08:00 AM
   Other medications:
   Keppra, ISS, Vit B/C, Protonix, mvi, thiamine, folate, lactulose 30
   tid.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-3-27**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.4
   HR: 93 (89 - 106) bpm
   BP: 125/79(88) {111/62(75) - 142/88(93)} mmHg
   RR: 17 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  2,979 mL
                                                                    881 mL
   PO:
             TF:
                                                                    676 mL
                                                                    108 mL
   IVF:
                                                                  1,612 mL
                                                                    592 mL
   Blood products:
                                                                    260 mL
   Total out:
                                                                  1,985 mL
                                                                    280 mL
   Urine:
                                                                  1,985 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    994 mL
                                                                    601 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 562 (342 - 562) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 11 cmH2O
   Plateau: 16 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 100%
   ABG: ///25/
   Ve: 9.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.0 g/dL
   174 K/uL
   118 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.2 mEq/L
   13 mg/dL
   112 mEq/L
   141 mEq/L
   23.7 %
   9.2 K/uL
        [image002.jpg]
                             [**2191-3-20**]  05:01 PM
                             [**2191-3-20**]  10:17 PM
                             [**2191-3-21**]  03:26 AM
                             [**2191-3-21**]  03:29 PM
                             [**2191-3-22**]  04:45 AM
                             [**2191-3-26**]  12:15 AM
                             [**2191-3-26**]  01:56 AM
                             [**2191-3-26**]  04:01 AM
                             [**2191-3-26**]  04:02 AM
                             [**2191-3-27**]  04:15 AM
   WBC
   5.1
   6.2
   6.4
   9.4
   9.2
   Hct
   22.1
   27.1
   26.3
   26.1
   25.7
   27.3
   23.7
   Plt
   137
   142
   135
   139
   174
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   TCO2
   25
   27
   27
   Glucose
   95
   107
   92
   124
   118
   Other labs: PT / PTT / INR:18.3/47.4/1.7, CK / CKMB / Troponin-T:168//,
   ALT / AST:55/162, Alk Phos / T Bili:117/5.9, Amylase / Lipase:191/660,
   Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:5.8 %, Eos:1.8 %,
   D-dimer:5623 ng/mL, Fibrinogen:194 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.2 g/dL, LDH:263 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Microbiology: Blood cultures neg [**2102-3-21**] to date
   Urine Staph
   CSF [**3-24**] neg to date
   Assessment and Plan
   39 yom with alcoholism admitted with beriberi weakness, readmitted to
   ICU for altered mental status.
   1)Neuro- DDx - seizures, tox/metabolic- infection, etoh or benzo
   withdrawal. Seems to have significant improvement now, making seizure
   more likely.
   Pancultured, on abx for bacterial infection and acyclovir for possible
   HSV encephalitis given RBC in CSF, and now being treated with Keppra.
   Subdural hematoma- will d/c EEG for MRI today per neuro. will try to
   keep INR<2.0.
    2)ID- low grade fevers, workup and treatment as above. Staph in urine
   covered. consider tapping effusions if no improvement but likely low
   yield.
   3)Pulm- extubate now.
   4)FEN- beriberi, continue repletion. Increase Lasix for generalized
   edema to goal >1L  neg. on TFs
   5)Heme- coagulopathy, likely nutritional/hepatic dysfunction. anemia,
   check stool guiaic and follow Hct for drop this AM.
   6)GI- LFT abnormalities,stable. viral hep panel negative. persistently
   elevated lipase, consider ab CT if recurrent fevers. stop lactulose
   given no evidence of cirrhosis.
   7)ICU- SQH, PPI, Full code
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-26**] 08:51 PM
   20 Gauge - [**2191-3-26**] 08:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2191-03-28 07:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: AMS
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2191-3-27**] 10:20 AM
   - successfuly extubated
   - patient is slightly confused, ? episode of hallucination
   - patient underwent MRI
   - guaiac negative per nursing staff
   - rifaximin and lactulose ordered per Liver team recommendation
   - furosemide IV 20 mg ordered to meet target I&O of even
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2191-3-27**] 05:00 PM
   Vancomycin - [**2191-3-27**] 07:58 PM
   Acyclovir - [**2191-3-28**] 03:37 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-3-28**] 03:37 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-3-27**] 07:59 PM
   Furosemide (Lasix) - [**2191-3-27**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-3-28**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-3-28**] 07:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 95 (94 - 111) bpm
   BP: 125/86(94) {105/61(77) - 145/99(107)} mmHg
   RR: 18 (17 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  2,038 mL
                                                                    322 mL
   PO:
                                                                     60 mL
             TF:
                                                                    108 mL
   IVF:
                                                                  1,690 mL
                                                                    322 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    750 mL
   Urine:
                                                                  1,400 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                    -12 mL
                                                                   -428 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 562 (562 - 562) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 25
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 9.3 L/min
   Physical Examination
   gen: nad, more alert than upon transfer.  Difficulty speaking loudly
   pulm: decreased BS with rhonchi in bases bilaterally
   cv: tachy, no m/r/g
   abd: s/nt/nabs.  Mild distension
   extr: UE edema L>R.  3+ LE edema
   neuro: oriented x [**3-8**]
   Labs / Radiology
   207 K/uL
   7.9 g/dL
   94 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   10 mg/dL
   111 mEq/L
   141 mEq/L
   23.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2191-3-21**]  03:26 AM
                             [**2191-3-21**]  03:29 PM
                             [**2191-3-22**]  04:45 AM
                             [**2191-3-26**]  12:15 AM
                             [**2191-3-26**]  01:56 AM
                             [**2191-3-26**]  04:01 AM
                             [**2191-3-26**]  04:02 AM
                             [**2191-3-27**]  04:15 AM
                             [**2191-3-27**]  02:47 PM
                             [**2191-3-28**]  04:06 AM
   WBC
   6.2
   6.4
   9.4
   9.2
   8.1
   8.5
   Hct
   26.3
   26.1
   25.7
   27.3
   23.7
   23.0
   23.8
   Plt
   142
   135
   139
   174
   182
   207
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   TCO2
   25
   27
   27
   Glucose
   107
   92
   124
   118
   94
   Other labs: PT / PTT / INR:18.1/60.0/1.7, CK / CKMB / Troponin-T:168//,
   ALT / AST:56/115, Alk Phos / T Bili:99/2.8, Amylase / Lipase:191/660,
   Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:5.8 %, Eos:1.8 %,
   D-dimer:5623 ng/mL, Fibrinogen:194 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.1 g/dL, LDH:301 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Assessment and Plan
   39 yo male with 25 years of heavy alcohol abuse, presents with several
   months of progressive distal to proximal weakness, now thought to be
   due to wet beri beri, sent to the ICU with worsening MS, fevers, and
   concern for seizure.
   .
   ## AMS: now improved after keppra dosing, making seizure more likely.
   Still could be contribution from infection, subdural noted.
   - acyclovir d/c
d given HSV PCR negative in CSF
   - cont infectious workup - f/u cultures, consider tapping pleural
   effusions.
   - continue broad spectrum antibiotics
   - continue [**Hospital1 7**] keppra dosing
   - conservative CIWA
 not requiring
   - cont Lactulose/rifaximin per liver
   .
   # Fever/tachycardia: fever low grade, trended down.  CTA negative for
   PE.  Other causes for fever that are noninfectious could include
   atelectasis, pleural effusions, and dvt.
   - cont antibiotics as above
   - f/u cultures
   - consider tapping pleural effusions
   - consider CT abd for GI source if no improvement
   - reimage RUQ given sludge
   .
   ## Differential UE edema: possible DVT
   - LUE u/s
   .
   ## Respiratory acidosis: improved after intubations, no successfully
   weaned and extubated.
   .
   ## subdural hemorrhage: small, 4mm by CT with no midline shift, though
   could contribute to focus for seizure.  s/p vit k 10mg IV and FFP given
   with improvement in INR. Repeat MRI shows no hemorrhage but increase in
   an extra axial nonhemorrhage fluid collection which per radiology could
   indicate meningitis.  She has negative LP for bacterial meningitis on
   [**3-24**] with improvement since.
   - MRI per neuro
 difficulty given continuous EEG.  Leads are
   compatible, but staff unable to disconnect from box.  Either d/c
   continuous EEG as above or need EEG nurse to help with disconnecting
   box from leads
   - f/u MRI
   .
   ## Anemia: up and down since admission. Likely at least partially from
   nutritional issues including b12 deficiency (MCV 101) though also had
   maroon guaiac pos stools during this admission.  No grossly bloody
   stools at this point.
   - guaiac stools
   - recheck in PM
   - further workup if still down this afternoon
   - cont b vitamin supplementation
   ## pleural effusions: likely compressive atelectasis vs parapneumonic
   effusions, most likely compressive atelectasis with effusions represent
   total body edema.  Still could be infected and source of fevers.  Has
   not seemed to directly effect respiratory status
   - consider thoracentesis if no further improvement
   .
   ## Beriberi: Weakness intially improved with thiamine repletion. He has
   components of both wet and dry Beriberi - heart failure, edema and
   weakness.
   - Continue Thiamine, B complex, Multivitamin, folate.  Change thiamine
   to PO.
   .
   ## Volume status: Peripheral edema, likely due to capillary leak
   syndrome secondary to Beriberi. Also many liters positive over
   admission for tachycardia.  Known pleural effusions.
   - lasix
   - goal negative
   .
   ## GI bleed: Marroon stools during his stay.  Guaiac negative in ICU.
   - Guaiac, and monitor Hct.
   .
   ## Coagulopathy:? hepatic contribution, possible component of DIC
   (fibrinogen not low on [**3-21**])  Improvement after FFP and vit k
   - Monitor HCT and transfuse prn Hct <21 (has now gotten 5U RBCs and 2U
   FFP, none since [**2191-3-20**])
   - fibrinogen not suspicious for DIC, ddimer elevated nonspecific
   - guaiac stools
   .
   ## LFT abnormalities: Leading diagnosis is alcoholic hepatitis.  Never
   given steroids.  Stable, not improving.  Slight increased echogenicity
   on RUQ, + ascites, mild splenomegaly.  Has GB sludge.
   - Liver recs (appreciate input)
   - HBV, HIV, HSV, EBV, CMV neg
   - Lactulose and rifaximin
   .
   ## Elevated lipase: Trending down after peak 808. Likely etoh related
   subclinical pancreatitis.
   - follow
   - consider CT abd to eval for inflammation/pseudocyst
   .
   ## FEN/Lytes: Tube feeds, replete lytes prn
   .
   ## Prophylaxis: sc heparin, ppi
   .
   ## Access: PIVs
   .
   ## Code status: FULL CODE
   .
   ## Dispo: to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2191-3-26**] 08:51 PM
   20 Gauge - [**2191-3-26**] 08:52 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2191-03-28 09:14:00 Physician Attending Progress Note
Chief Complaint: Status epileptics, resp failure, beri beri, low grade
   fevers
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2191-3-27**] 10:20 AM
   Mild confusion with ? hallucination
   MRI head yet to be read
   Guiac neg, chronic anemia
   RUQ US with sludge and ? cirrhosis but unclear
   Diuresed for full body overload
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2191-3-27**] 05:00 PM
   Vancomycin - [**2191-3-27**] 07:58 PM
   Acyclovir - [**2191-3-28**] 03:37 AM
   Piperacillin/Tazobactam (Zosyn) - [**2191-3-28**] 03:37 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2191-3-27**] 07:59 PM
   Furosemide (Lasix) - [**2191-3-27**] 09:00 PM
   Heparin Sodium (Prophylaxis) - [**2191-3-28**] 07:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2191-3-28**] 09:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.3
C (97.4
   HR: 95 (94 - 111) bpm
   BP: 125/86(94) {105/61(77) - 145/99(107)} mmHg
   RR: 18 (17 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 73 Inch
             Total In:
                                                                  2,038 mL
                                                                    332 mL
   PO:
                                                                     60 mL
             TF:
                                                                    108 mL
   IVF:
                                                                  1,690 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  2,050 mL
                                                                    750 mL
   Urine:
                                                                  1,400 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                    -12 mL
                                                                   -419 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: all present.
   Respiratory / Chest: Dull at both bases [**2-4**] way up, rest clear
   Abdominal: Soft, Non-tender, Bowel sounds present, no [**Doctor Last Name 1850**] sign
   Extremities: Right: 3+, Left: 3+ edema. L arm>> edema than R
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: weak, diminished, Tone: reduced
   Labs / Radiology
   7.9 g/dL
   207 K/uL
   94 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.7 mEq/L
   10 mg/dL
   111 mEq/L
   141 mEq/L
   23.8 %
   8.5 K/uL
                             [**2191-3-21**]  03:26 AM
                             [**2191-3-21**]  03:29 PM
                             [**2191-3-22**]  04:45 AM
                             [**2191-3-26**]  12:15 AM
                             [**2191-3-26**]  01:56 AM
                             [**2191-3-26**]  04:01 AM
                             [**2191-3-26**]  04:02 AM
                             [**2191-3-27**]  04:15 AM
                             [**2191-3-27**]  02:47 PM
                             [**2191-3-28**]  04:06 AM
   WBC
   6.2
   6.4
   9.4
   9.2
   8.1
   8.5
   Hct
   26.3
   26.1
   25.7
   27.3
   23.7
   23.0
   23.8
   Plt
   142
   135
   139
   174
   182
   207
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   TCO2
   25
   27
   27
   Glucose
   107
   92
   124
   118
   94
   Other labs: PT / PTT / INR:18.1/60.0/1.7, CK / CKMB / Troponin-T:168//,
   ALT / AST:56/115, Alk Phos / T Bili:99/2.8, Amylase / Lipase:191/660,
   Differential-Neuts:75.8 %, Lymph:16.3 %, Mono:5.8 %, Eos:1.8 %,
   D-dimer:5623 ng/mL, Fibrinogen:194 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:2.1 g/dL, LDH:301 IU/L, Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.7
   mg/dL
   Imaging: RUQ: GB sludge
   MRI head: read pend
   CT chest: bilateral pleural effusions
   Microbiology: UCx: staph
   HSV PCR from CSF: neg
   Assessment and Plan
 .H/O AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 BALANCE, IMPAIRED
 COUGH, IMPAIRED
 GAIT, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 MOTOR FUNCTION, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 EDEMA, PERIPHERAL
 MALNUTRITION
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 .H/O ALCOHOL ABUSE
 .H/O ACIDOSIS, MIXED
 ANEMIA, OTHER
 ELECTROLYTE & FLUID DISORDER, OTHER
   39 yom with alcoholism admitted with beriberi weakness, readmitted to
   ICU for altered mental status, loaded with Keppra for seizures, CT head
   with 4mm SDH.
   Mental status: Fluctuates, likely delirium. EEG read and MRI read
   pending. Seizures controlled (withdrawal vs from SDH), now on keppra.
   AAO x 3 today. On antibiotics for infection. d/c Acyclovir since HSV
   PCR in CSF neg.
   ID: Low grade fever without leukocytosis. On Vanc and Zosyn x 7 days
   DD: UTI with staph
   sludge on RUQ, consider repeat if spikes
   bibasilar effusions with atelectasis, CT chest if deteriorates
   elevated lipase, ? pancreatitis
   Left arm edema: asymmetric, check US to r/o clot
   Hepatic encephalopathy: on lactulose and rifaximin, stooling, drinking
   well.
   Beriberi: on thiamine, slow diuresis
   Anemia: multifactorial, stable, replete vitamins/nutrition. Guiac neg
   Rest per resident note.
   ICU Care
   Nutrition:
   Comments: s/S eval today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2191-3-26**] 08:51 PM
   20 Gauge - [**2191-3-26**] 08:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU, to floor later today
   Total time spent:
   Patient is critically ill